US07241785B2
A mixture of methyl 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenylthio]-4-phenyl-5-thiazolyl]propionate (360 mg), lithium hydroxide hydrate (83.5 mg), tetrahydrofuran (6 ml), water (4 ml) and methanol (4 ml) was stirred at room temperature for 2 hrs. 1N Hydrochloric acid (2.1 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated to give 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenylthio]-4-phenyl-5-thiazolyl]propionic acid (338 mg, yield 96%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point: 121–122° C.

reactant | methyl 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenylthio]-4-phenyl-5-thiazolyl]propionate | 360 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)SC=1SC(=C(N1)C1=CC=CC=C1)CCC(=O)OC | C30H26N2O4S2
reactant | lithium hydroxide hydrate | 83.5 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1N, 2.1 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenylthio]-4-phenyl-5-thiazolyl]propionic acid | 338 mg, yield 96% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)SC=1SC(=C(N1)C1=CC=CC=C1)CCC(=O)O | C29H24N2O4S2
